US05362878
2-n-Nonyl-N-(2,4,6-trifluorophenyl)-1,2,3,4-tetrahydro-2-naphthamide
To a solution of 1.0 g (6.8 mmole) 2,4,6-trifluoroaniline and 830 mg (6.8 mmole) 4-dimethylaminopyridine in 40 ml methylene chloride cooled to 5° C. under nitrogen was added a solution of 2.12 g (6.6 mmole) 2-n-nonyl-1,2,3,4-tetrahydro-2-naphthoyl chloride in 10 ml methylene chloride. The resulting solution was stirred at room temperature for 44 hours. Fifty milliters of methylene chloride was then added and the solution was washed sequentially with 30 ml aqueous hydrochloric acid, 30 ml water and 30 ml brine. The methylene chloride solution was dried over anhydrous sodium sulfate and concentrated to dryness in vacuo. The residue (2.5 g) was purified by column chromatography on silica gel eluting with 2:1 methylene chloride-hexane to yield 1.66 g (58% yield) of the desired product as a white, low melting solid.

reactant | 2,4,6-trifluoroaniline | 6.8 mmole, 1.0 g | FC1=C(N)C(=CC(=C1)F)F | C6H4F3N
reactant | 2-n-nonyl-1,2,3,4-tetrahydro-2-naphthoyl chloride | 6.6 mmole, 2.12 g | C(CCCCCCCC)C1(CC2=CC=CC=C2CC1)C(=O)Cl | C20H29ClO
catalyst | 4-dimethylaminopyridine | 6.8 mmole, 830 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-n-Nonyl-N-(2,4,6-trifluorophenyl)-1,2,3,4-tetrahydro-2-naphthamide | 1.66 g, 58% yield | C(CCCCCCCC)C1(CC2=CC=CC=C2CC1)C(=O)NC1=C(C=C(C=C1F)F)F | C26H32F3NO
